US06573267B2
1-[5-(2-Chlorobenzoyl)-1-ethylthiomethyl-1H-pyrrol-3-yl]-2-(N,N-diethylamino)ethanone (Compound 16)
0.2 g (0.0045 moles) of 60% NaH in oil was washed with hexane and 3 mL of DMF was added. To the suspension was added a solution dropwise of 1.2 g (0.0035 moles) of 1-[5-(2-chlorobenzoyl)-1H-pyrrol-3-yl]-2-(N,N-diethylamino)ethanone in 8 mL of DMF. After stirring for 10 m, 1.5 mL (0.0070 moles) of chloroethyl methyl sulfide was added and the reaction heated to 65° C. for 4 h. Water was added and extracted with Et2O, the organics were washed with water, brine and dried (Na2SO4). The solvent was evaporated in vacuo. The resulting oil was passed through a Biotage Flash 40 L, silica gel (97:3:0.1 CH2Cl2:MeOH:NH40H), then treated with ethereal HCl. After recrystallizing from 2-PrOH, 0.11 g of Compound 16; mp 157-158° C. CIMS m/z=393 (MH+). 1HNMR (300 MHz, DMSO-d6) δ 8.3 (Ar, 1H); 7.6-7.4 (Ar, 4H); 6.9 (Ar, 1H); 4.7 (m, 4H); 3.3(s,3H); 3.2 (m, 4H); 2.9 (m, 2H); 1.2 (t, 6H). Anal calc'd for C20H25CIN2O2S.HCl: C, 55.94; H, 6.1; N, 6.52. Found: C, 55.77, H, 6.12; N, 6.31.

reactant | NaH | 0.0045 moles, 0.2 g | [H-].[Na+]
reactant | 1-[5-(2-chlorobenzoyl)-1H-pyrrol-3-yl]-2-(N,N-diethylamino)ethanone | 0.0035 moles, 1.2 g | ClC1=C(C(=O)C2=CC(=CN2)C(CN(CC)CC)=O)C=CC=C1 | C17H19ClN2O2
reactant | chloroethyl methyl sulfide | 0.0070 moles, 1.5 mL | CSCCCl | C3H7ClS
reactant | Water | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 1-[5-(2-Chlorobenzoyl)-1-ethylthiomethyl-1H-pyrrol-3-yl]-2-(N,N-diethylamino)ethanone | ClC1=C(C(=O)C2=CC(=CN2CSCC)C(CN(CC)CC)=O)C=CC=C1 | C20H25ClN2O2S
